US09359362B2
Ethyl {(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}carbamate
Under an atmosphere of argon protective gas, (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile (25 mg, 59 μmol) was dissolved in a mixture of abs. THF (2.5 ml) and abs. pyridine (48 ml). At room temperature, ethyl chloroformate (32 mg, 297 μmol, 5 eq.) was added and the mixture was heated at 80° C. for 12 h. Once HPLC analysis showed substantial conversion, the reaction mixture was concentrated under reduced pressure and purified by preparative HPLC (Reprosil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (25 mg, 86% of theory).

reactant | (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | 59 μmol, 25 mg | NC1=NN2C(N(C(=C([C@H]2C2=CC=C(C=C2)C#N)C#N)C)C2=CC(=CC=C2)C(F)(F)F)=N1 | C21H14F3N7
reactant | THF | 2.5 ml | C1CCOC1 | C4H8O
reactant | ethyl chloroformate | 297 μmol, 32 mg, 5 eq. | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 48 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl {(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}carbamate | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)NC(OCC)=O)C2=CC(=CC=C2)C(F)(F)F)C | C24H18F3N7O2
